US07250417B2
To a solution of 6-(4-fluoro-phenyl)-1-(4-methoxy-benzyl)-1 H-imidazo[4,5-b]pyrazine (40 mg, 0.12 mmol) in anhydrous dichloromethane (3 mL) at 0° C. was added BBr3 (0.01 mL). The reaction was stirred under nitrogen at 0° C. for 40 minutes, and HPLC showed the presence of 33% of starting material. Another portion of BBr3 (0.01 mL) was added, and the reaction was continued at 0° C. under nitrogen for 2 hours for the completion. The reaction solution was quenched with ice, and partitioned between dichloromethane and water. The organic layer was washed with brine, dried over MgSO4, and concentrated. The residue was purified on a silica gel column eluting with EtOAc-Hexane (1:1) to provide 4-[6-(4-fluoro-phenyl)-imidazo[4,5-b]pyrazin-1-ylmethyl]-phenol as a yellow solid (34 mg).

reactant | 6-(4-fluoro-phenyl)-1-(4-methoxy-benzyl)-1 H-imidazo[4,5-b]pyrazine | 0.12 mmol, 40 mg | FC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C=N2)CC2=CC=C(C=C2)OC | C19H15FN4O
reactant | BBr3 | 0.01 mL | B(Br)(Br)Br | BBr3
reactant | BBr3 | 0.01 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-[6-(4-fluoro-phenyl)-imidazo[4,5-b]pyrazin-1-ylmethyl]-phenol | 34 mg | FC1=CC=C(C=C1)C1=CN=C2C(=N1)N(C=N2)CC2=CC=C(C=C2)O | C18H13FN4O
